US04929741
A solution of 5.9 g (25.4 mmol) of methyl 3-[3,4-(methylenedioxy)benzoyl]propiolate in 60 ml of tetrahydrofuran was treated slowly at 0° with 71 ml of 3% potassium hydroxide solution and stirred at 0° for a further 1 hour The reaction mixture was treated with water and extracted once with ether. The ether phase is discarded. The aqueous phase was adjusted to pH 1 with 1N hydrochloric acid and extracted twice with ether. The combined organic phases were dried over sodium sulphate and concentrated. Crystallization of the residue from methylene chloride/ ether/hexane yielded 3-[3,4-(methylenedioxy)-benzoyl]propiolic acid of melting point 122°-124°.

reactant | methyl 3-[3,4-(methylenedioxy)benzoyl]propiolate | 25.4 mmol, 5.9 g | C1OC=2C=C(C(=O)C#CC(=O)OC)C=CC2O1 | C12H8O5
reactant | potassium hydroxide | 71 ml | [OH-].[K+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 3-[3,4-(methylenedioxy)-benzoyl]propiolic acid | C1OC=2C=C(C(=O)C#CC(=O)O)C=CC2O1 | C11H6O5
